US03989682
0.45 g of 5-amino-1-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)imidazole-4-carboxamide O-benzyl-oxime was dissolved in a mixture of 0.30 g of sodium hydroxide, 5 ml of methanol and 0.5 ml of carbon disulfide, and the resulting mixture was allowed to react in an autoclave at 170° C for 4 hours under autogenous pressure (about 12 - 13 Kg/cm2). The reaction product was worked up in the same manner as described in Example 7 to obtain 0.265 g of 2-thioadenosine having a melting point of 198° C (with decomposition) in a 91% yield.

reactant | 5-amino-1-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)imidazole-4-carboxamide O-benzyl-oxime | 0.45 g | C(C1=CC=CC=C1)ON=C(N)C=1N=CN(C1N)[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C22H27N5O8
reactant | carbon disulfide | 0.5 ml | C(=S)=S | CS2
solvent | sodium hydroxide | 0.30 g | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | 2-thioadenosine | 0.265 g, 91% yield | C1=NC2=C(NC(=S)N=C2N1[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O)O)N | C10H13N5O4S
